US07402585B2
A mixture of 4-benzyloxy-3-methoxy-6-nitrobenzonitrile (46 g, 162 mmol), sodium bicarbonate (95 g, 1.13 mol), water (750 ml), dichloromethane (550 ml) and tetrabutylammonium chloride (30 g, 108 mmol) was rapidly stirred at 20° C. and treated portionwise with sodium dithionite (66 g, 379 mmol) over 2 hours. The mixture was stirred for a further 1 hour then the phases separated. The aqueous phase was extracted with dichloromethane (2×200 ml) and the combined organic solution washed with water (300 ml) and dried over magnesium sulphate. The solution was concentrated to 250 ml and 4.0 N hydrochloric acid in 1,4-dioxane (150 ml, 0.6 mol) added. The reaction was then diluted with diethyl ether (1000 ml) and cooled on ice. The resulting solid was collected by suction filtration and washed with diethyl ether. The solid was stirred in methanol (1000 ml) and sodium bicarbonate solution (800 ml) added (pH 8) and the mixture stirred for 1 hour. The solid was collected by suction filtration, washed with water, methanol and dried in vacuo to yield 2-amino-4-(benzyloxy)-5-methoxybenzonitrile (34 g, 82% yield) as light brown solid:

reactant | 4-benzyloxy-3-methoxy-6-nitrobenzonitrile | 162 mmol, 46 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C(=C1)[N+](=O)[O-])OC | C15H12N2O4
reactant | sodium bicarbonate | 1.13 mol, 95 g | C([O-])(O)=O.[Na+]
reactant | sodium dithionite | 379 mmol, 66 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 4.0 N | Cl | ClH
reactant | 1,4-dioxane | 0.6 mol, 150 ml | O1CCOCC1 | C4H8O2
catalyst | tetrabutylammonium chloride | 108 mmol, 30 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 550 ml | ClCCl | CH2Cl2
solvent | water | 750 ml | O | H2O
product | 2-amino-4-(benzyloxy)-5-methoxybenzonitrile | 34 g, 82% yield | NC1=C(C#N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H14N2O2
